US06313299B1
6-benzyl-8-(methoxyimino)-2-methyl-2,6-diazaspiro[3,4]octane.
550 mg of 6-benzyl-2,6-diazaspiro[3,4]octane-8-one-O-methyloxime was added to 10 ml of ethanol and thereto 0.4 ml of acetic acid and 176 mg of paraformaldehyde were added and the resulting mixture was stirred for 30 minutes at room temperature and thereto 370 mg of sodium cyanoborohydride was added. The resulting mixture was stirred for 16 hours at room temperature, neutralized with aqueous solution of potassium carbonate and distilled under the reduced pressure and the obtained residue was added into 50 ml of dichloromethane, washed with 50 ml of water, dried with magnesium sulfate, filtered and concentrated under the reduced pressure. The residue was purified by silicagel column chromatography(methanol:normal hexane:dichloromethane=1:10:8) to give 350 mg of the titled compound(yield: 60.1%).

reactant | 6-benzyl-2,6-diazaspiro[3,4]octane-8-one-O-methyloxime | 550 mg | CON=C1CN(CC12CNC2)CC2=CC=CC=C2 | C14H19N3O
reactant | paraformaldehyde | 176 mg | C=O | CH2O
reactant | sodium cyanoborohydride | 370 mg | C(#N)[BH3-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 0.4 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-benzyl-8-(methoxyimino)-2-methyl-2,6-diazaspiro[3,4]octane | 350 mg, yield: 60.1% | C(C1=CC=CC=C1)N1CC2(CN(C2)C)C(C1)=NOC | C15H21N3O
